US03974167
First, by effecting Friedel Krafts reaction between hydrochloride nicotinic acid chloride and mesitylene in accordance with Reynold C. Fuson and John J. Miller's method [cf. J.Am.Chem. Soc. 79.3477 (1957)], 3-mesitol pyridine (yield: 63%, b.p.:157.5°-158°C/4mmHg) is obtained.

reactant | hydrochloride nicotinic acid chloride | C(C1=CN=CC=C1)(=O)Cl.Cl
reactant | mesitylene | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 3-mesitol pyridine | yield: 63% | N1=CC=CC=C1.C=1(CC(C=C(C1)C)(C)O)C | InChI=1S/C9H14O.C5H5N/c1-7-4-8(2)6-9(3,10)5-7;1-2-4-6-5-3-1/h4-5,10H,6H2,1-3H3;1-5H
